M4 (net38 VB1 VDD VDD) pmos4
M3 (net38 net37 VDD VDD) pmos4
M2 (net37 net37 VDD VDD) pmos4
R0 (VDD net33) resistor
R2 (net34 VSS) resistor
M5 (net33 net34 VSS VSS) nmos4
M0 (net37 net33 net34 VSS) nmos4
M1 (net38 net34 VSS VSS) nmos4
L2 (net38 VOUT1) inductor
? Missing component
