M3 (net15 VB2 VSS VSS) nmos4
M2 (VDD net16 net15 VSS) nmos4
M1 (net19 net7 net20 VSS) nmos4
M0 (net16 VDD net19 VSS) nmos4
R4 (net7 VB1) resistor
R3 (net21 VIN1) resistor
R2 (net16 net18) resistor
R0 (net22 net16) resistor
L1 (net20 VSS) inductor
? Missing component
C2 (VOUT1 net15) capacitor
C1 (net7 net21) capacitor
C0 (net18 net7) capacitor
