M1 (IOUT2 VIN1 net15 VSS) nmos4
M0 (IOUT1 VIN2 net13 VSS) nmos4
C1 (IOUT1 VIN1) capacitor
C0 (IOUT2 VIN2) capacitor
? Missing component
L0 (net13 VSS) inductor
