M2 (net14 net8 VSS VSS) nmos4
M1 (net15 net9 net14 VSS) nmos4
M0 (net1 net10 net15 VSS) nmos4
R3 (net8 VSS) resistor
R2 (net9 net8) resistor
R1 (net10 net9) resistor
R0 (net1 net10) resistor
C4 (VOUT1 net1) capacitor
C3 (net1 VIN1) capacitor
C2 (net8 net1) capacitor
C1 (net9 VSS) capacitor
C0 (net10 VSS) capacitor
? Missing component
