? Missing component
L2 (net44 net45) inductor
L1 (VDD net47) inductor
C3 (VDD net45) capacitor
C2 (net45 VSS) capacitor
C0 (net47 net42) capacitor
M3 (IB1 IB1 VSS VSS) nmos4
M2 (net45 IB1 VSS VSS) nmos4
M1 (net47 net42 net44 VSS) nmos4
M0 (net42 net47 net44 VSS) nmos4
