M5 (net17 net22 VDD VDD) pmos4
M4 (net7 net10 VDD VDD) pmos4
M1 (IB1 IB1 VB1 VB1) pmos4
M0 (net11 IB1 VB1 VB1) pmos4
L3 (net17 VSS) inductor
L2 (net7 VSS) inductor
L1 (net22 net11) inductor
? Missing component
C3 (net25 net17) capacitor
C2 (net21 net7) capacitor
C1 (net22 VCONT1) capacitor
C0 (net10 VCONT1) capacitor
M3 (net22 net10 VSS VSS) nmos4
M2 (net10 net22 VSS VSS) nmos4
R1 (net25 VSS) resistor
R0 (net21 VSS) resistor
