L3 (net7 net10) inductor
L2 (net14 net8) inductor
L1 (VSS net14) inductor
? Missing component
M2 (net14 net10 VSS VSS) nmos4
M1 (net7 net8 VSS VSS) nmos4
M0 (net7 VCONT1 net14 VSS) nmos4
C5 (net10 VCONT4) capacitor
C4 (net8 VCONT4) capacitor
C3 (net14 VCONT3) capacitor
C2 (net7 VCONT3) capacitor
C1 (net14 VCONT2) capacitor
C0 (net7 VCONT2) capacitor
