M6 (net20 IB1 net40 VDD) pmos4
M5 (net33 IB1 net41 VDD) pmos4
M4 (net18 IB1 net42 VDD) pmos4
M3 (net25 net18 VDD VDD) pmos4
M2 (net40 net18 VDD VDD) pmos4
M1 (net41 net18 VDD VDD) pmos4
M0 (net42 net18 VDD VDD) pmos4
R3 (net33 net32) resistor
R2 (net20 net33) resistor
R1 (net33 VIN1) resistor
R0 (net18 IB1) resistor
? Missing component
M12 (net25 net25 VSS VSS) nmos4
M11 (net38 net32 VSS VSS) nmos4
M10 (net39 net32 VSS VSS) nmos4
M9 (net20 net33 net38 VSS) nmos4
M8 (net32 net33 net39 VSS) nmos4
M7 (VDD net20 VOUT1 VSS) nmos4
