M7 (VOUT2 VB2 net43 VDD) pmos4
M6 (VOUT1 VB2 net47 VDD) pmos4
? Missing component
M4 (net24 VB2 net14 VDD) pmos4
M3 (net43 VB1 VDD VDD) pmos4
M2 (net47 VB1 VDD VDD) pmos4
M1 (net14 VB1 VDD VDD) pmos4
M0 (net11 VB1 VDD VDD) pmos4
M20 (net55 net40 VSS VSS) nmos4
M19 (net40 VB4 net55 VSS) nmos4
M18 (net54 net40 VSS VSS) nmos4
M17 (VOUT1 VB4 net54 VSS) nmos4
M16 (net53 net24 VSS VSS) nmos4
M15 (net24 VB4 net53 VSS) nmos4
M14 (net52 net24 VSS VSS) nmos4
M13 (VOUT2 VB4 net52 VSS) nmos4
M12 (net17 VB3 VSS VSS) nmos4
M11 (net47 VIN2 net17 VSS) nmos4
M10 (net14 VIN2 net17 VSS) nmos4
M9 (net43 VIN1 net17 VSS) nmos4
M8 (net11 VIN1 net17 VSS) nmos4
C1 (VOUT1 VSS) capacitor
C0 (VOUT2 VSS) capacitor
