M0 (net85 VB1 VDD VDD) pmos4
M6 (net92 VCM1 net81 VDD) pmos4
M5 (VSS VOUT1 net81 VDD) pmos4
M4 (net78 VB2 net86 VDD) pmos4
M3 (net75 VB2 net85 VDD) pmos4
M2 (net81 VB1 VDD VDD) pmos4
M1 (net86 VB1 VDD VDD) pmos4
R1 (net78 VOUT1) resistor
R0 (VOUT1 net75) resistor
M18 (net96 net92 VSS VSS) nmos4
M17 (net75 VB5 net96 VSS) nmos4
M16 (net95 net92 VSS VSS) nmos4
M11 (net78 VB5 net95 VSS) nmos4
M15 (net74 VB3 VSS VSS) nmos4
M14 (net85 VIN1 net74 VSS) nmos4
M13 (net86 VIN2 net74 VSS) nmos4
M12 (net92 net92 VSS VSS) nmos4
M10 (net97 VB6 VSS VSS) nmos4
M9 (net98 VB6 VSS VSS) nmos4
? Missing component
M7 (net78 VB4 net97 VSS) nmos4
