M3 (net16 VCM1 VDD VDD) pmos4
? Missing component
M1 (net9 VOUT2 VDD VDD) pmos4
M0 (net9 VOUT1 VDD VDD) pmos4
M5 (net16 net9 VSS VSS) nmos4
M4 (net9 net9 VSS VSS) nmos4
