M3 (net20 net11 VDD VDD) pmos4
M2 (VOUT1 net17 VDD VDD) pmos4
M1 (net17 net17 VDD VDD) pmos4
M0 (net11 net11 VDD VDD) pmos4
? Missing component
M7 (net20 net20 VSS VSS) nmos4
M6 (net10 VB1 VSS VSS) nmos4
M5 (net17 VIN1 net10 VSS) nmos4
M4 (net11 VIN2 net10 VSS) nmos4
C0 (VOUT1 VSS) capacitor
