M26 (net112 net106 VDD VDD) pmos4
M21 (net104 net99 VDD VDD) pmos4
M3 (net93 net93 VDD VDD) pmos4
M15 (net88 net88 VDD VDD) pmos4
M8 (net83 VB5 VDD VDD) pmos4
M7 (net82 VB5 VDD VDD) pmos4
M27 (net112 net108 VSS VSS) nmos4
M25 (net108 VB4 VSS VSS) nmos4
M24 (net123 net123 net108 VSS) nmos4
M23 (VDD net106 net123 VSS) nmos4
M22 (net104 net100 VSS VSS) nmos4
M20 (net100 VB4 VSS VSS) nmos4
M19 (net122 net122 net100 VSS) nmos4
M13 (VDD net99 net122 VSS) nmos4
M6 (net99 net95 net97 VSS) nmos4
M5 (net106 net91 net97 VSS) nmos4
M4 (net97 VB3 VSS VSS) nmos4
M2 (net95 net90 net92 VSS) nmos4
M1 (net91 net86 net92 VSS) nmos4
M0 (net92 VB2 VSS VSS) nmos4
M18 (net87 VB1 VSS VSS) nmos4
? Missing component
M16 (net86 net82 net87 VSS) nmos4
M14 (net84 VCM1 VSS VSS) nmos4
M12 (net83 VIN2 net84 VSS) nmos4
M11 (net82 VIN1 net84 VSS) nmos4
M10 (net82 net82 net83 VSS) nmos4
M9 (net83 net83 net82 VSS) nmos4
R5 (VDD net99) resistor
R4 (VDD net106) resistor
R3 (net93 net95) resistor
R2 (net93 net91) resistor
R1 (net88 net90) resistor
R0 (net88 net86) resistor
I1 (net112 LOGICQ1 VDD VSS) INVERTER
I0 (net104 LOGICQ2 VDD VSS) INVERTER
