M23 (net38 net38 VDD VDD) pmos4
M22 (VOUT2 net56 VDD VDD) pmos4
M21 (net56 net56 VDD VDD) pmos4
M20 (VOUT1 net56 VDD VDD) pmos4
M9 (net50 VCLK2 net46 VDD) pmos4
M8 (net18 VCLK2 net23 VDD) pmos4
M3 (net62 net46 VDD VDD) pmos4
M2 (net62 net62 VDD VDD) pmos4
M1 (net59 net59 VDD VDD) pmos4
M0 (net59 net23 VDD VDD) pmos4
M27 (VOUT2 IB4 VSS VSS) nmos4
M26 (VOUT1 IB3 VSS VSS) nmos4
M25 (net56 IB5 VSS VSS) nmos4
M24 (net38 net38 IB5 VSS) nmos4
M19 (VIN2 VCLK3 net45 VSS) nmos4
? Missing component
M17 (VIN1 VCLK3 net26 VSS) nmos4
M16 (VIN3 VCLK1 net26 VSS) nmos4
M15 (net62 net45 IB1 VSS) nmos4
M14 (net59 net26 IB1 VSS) nmos4
M13 (net50 VCLK1 VB1 VSS) nmos4
M12 (net46 VCLK2 VB1 VSS) nmos4
M11 (net18 VCLK1 VB1 VSS) nmos4
M10 (net23 VCLK2 VB1 VSS) nmos4
M7 (net62 net46 IB2 VSS) nmos4
M6 (net59 net23 IB2 VSS) nmos4
M5 (VDD net59 IB4 VSS) nmos4
M4 (VDD net62 IB3 VSS) nmos4
C1 (IB4 net50) capacitor
C0 (IB3 net18) capacitor
